US05753661
A mixture of 1-(2-amino-1-ethyl)-4-(1,4-benzodioxan-5-yl)piperazine (9.1 g), bromoacetaldehyde dimethylacetale (6.5 g), potassium iodide (0.5 g), and potassium carbonate (4.8 g) in 1,4-dioxan (200 ml) was refluxed for 16 h. Water was added followed by extraction with ethyl acetate. The organic phase was concentrated in vacuo leaving an oil which was applied to a silica gel column (eluent: ethyl acetate/methanol=1:3). The product, 1-(1,4-benzodioxan-5-yl)-4-[2-(2,2-dimethoxy-1-ethylamino)-1-ethyl]piperazine, was obtained as an oil (4.7 g).

reactant | 1-(2-amino-1-ethyl)-4-(1,4-benzodioxan-5-yl)piperazine | 9.1 g | NCCN1CCN(CC1)C1=CC=CC=2OCCOC21 | C14H21N3O2
reactant | bromoacetaldehyde | 6.5 g | BrCC=O | C2H3BrO
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxan | 200 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | Water | O | H2O
product | 1-(1,4-benzodioxan-5-yl)-4-[2-(2,2-dimethoxy-1-ethylamino)-1-ethyl]piperazine | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCNCC(OC)OC | C18H29N3O4
